US07491723B2
1-{2-piperazin-1-yl-1-[3′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]ethyl}cyclohexanol dihydrochloride
In an analogous manner to Example 135, step 4,1-{2-piperazin-1-yl-1-[3′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]ethyl}cyclohexanol dihydrochloride was prepared from tert-butyl 4-{2-(1-hydroxycyclohexyl)-2-[3′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]ethyl}piperazine-1-carboxylate. MS (ES) m/z 449.3 ([M+H]+); HRMS: calcd for C25H31F3N2O2.2.00 HCl, 520.1871; found (ESI), 449.2389.

reactant | tert-butyl 4-{2-(1-hydroxycyclohexyl)-2-[3′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]ethyl}piperazine-1-carboxylate | OC1(CCCCC1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C1=CC(=CC=C1)OC(F)(F)F | C30H39F3N2O4
reactant | HCl | Cl | ClH
product | 1-{2-piperazin-1-yl-1-[3′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]ethyl}cyclohexanol dihydrochloride | Cl.Cl.N1(CCNCC1)CC(C1=CC=C(C=C1)C1=CC(=CC=C1)OC(F)(F)F)C1(CCCCC1)O | InChI=1S/C25H31F3N2O2.2ClH/c26-25(27,28)32-22-6-4-5-21(17-22)19-7-9-20(10-8-19)23(18-30-15-13-29-14-16-30)24(31)11-2-1-3-12-24;;/h4-10,17,23,29,31H,1-3,11-16,18H2;2*1H
